US08492559B2
Stage (ii): 6-(Piperidin-1-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride
2,2,2-Trifluoro-1-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (1.88 g, 5.76 mmol) was dissolved in methanol (23 ml); potassium carbonate (1.99 g, 14.4 mmol) was added and the reaction mixture was stirred for 15 h at RT. The solvent was then removed under vacuum, and the residue was taken up in dichloromethane and washed with water (15 ml). The aqueous phase was extracted with dichloromethane, and the combined organic phases were dried over sodium sulfate and concentrated under vacuum. The residue was taken up in an acetone/diethyl ether mixture, and the hydrochloride was precipitated with 2 M hydrogen chloride in diethyl ether (3 equiv.) and, after being filtered out with suction, was dried under vacuum. Yield: 1.62 g (93%)

reactant | 2,2,2-Trifluoro-1-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 5.76 mmol, 1.88 g | FC(C(=O)N1CC2=CC=C(C=C2CC1)CN1CCCCC1)(F)F | C17H21F3N2O
reactant | potassium carbonate | 14.4 mmol, 1.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
reactant | hydrogen chloride | 2 M | Cl | ClH
reactant | diethyl ether | 3 equiv. | C(C)OCC | C4H10O
solvent | methanol | 23 ml | CO | CH4O
product | 6-(Piperidin-1-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride | Cl.Cl.N1(CCCCC1)CC=1C=C2CCNCC2=CC1 | InChI=1S/C15H22N2.2ClH/c1-2-8-17(9-3-1)12-13-4-5-15-11-16-7-6-14(15)10-13;;/h4-5,10,16H,1-3,6-9,11-12H2;2*1H
